US07232827B2
13.1 5-Methyl-1,4,5,6-tetrahydro-2-pyrimidinamine hydrochloride
To a solution containing 6.7 g (41.6 mmol) of 2-methyl-1,3-propanediamine hydrochloride (Tetrahedron (1994) 50(29), 8617–8632) in 50 ml of methanol was added 83 ml of a solution of sodium methylate in methanol (1 mmol/ml) and the resulting mixture was treated with 3.97 g (41.6 mmol) of guanidine hydrochloride. The reaction mixture was heated at 140° C. for 3 h. The solution was filtered, the solvent evaporated and the residue obtained was used directly in the next step.

reactant | 2-methyl-1,3-propanediamine hydrochloride | 41.6 mmol, 6.7 g | Cl.CC(CN)CN
reactant | sodium methylate | C[O-].[Na+]
reactant | guanidine hydrochloride | 41.6 mmol, 3.97 g | Cl.NC(=N)N
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 1 mmol/ml | CO | CH4O
product | 5-Methyl-1,4,5,6-tetrahydro-2-pyrimidinamine hydrochloride | Cl.CC1CN=C(NC1)N | InChI=1S/C5H11N3.ClH/c1-4-2-7-5(6)8-3-4;/h4H,2-3H2,1H3,(H3,6,7,8);1H
